US08580815B2
Step 2: preparation of 3-(trifluoromethyl)-N-(3-formyl-4-methylphenyl)-5-(4-methyl-1H-imidazol-1-yl)benzamide
The compound is obtained by using the procedures of examples 83 (steps 1 and 2) replacing the methyl 5-(4-((4-methylpiperazin-1-yl)methyl)benzamido)-2-methylbenzoate with the methyl 5-(3-(trifluoromethyl)-5-(4-methyl-1H-imidazol-1-yl)benzamido)-2-methylbenzoate.

reactant | methyl 5-(4-((4-methylpiperazin-1-yl)methyl)benzamido)-2-methylbenzoate | CN1CCN(CC1)CC1=CC=C(C(=O)NC=2C=CC(=C(C(=O)OC)C2)C)C=C1 | C22H27N3O3
reactant | methyl 5-(3-(trifluoromethyl)-5-(4-methyl-1H-imidazol-1-yl)benzamido)-2-methylbenzoate | FC(C=1C=C(C(=O)NC=2C=CC(=C(C(=O)OC)C2)C)C=C(C1)N1C=NC(=C1)C)(F)F | C21H18F3N3O3
product | 3-(trifluoromethyl)-N-(3-formyl-4-methylphenyl)-5-(4-methyl-1H-imidazol-1-yl)benzamide | FC(C=1C=C(C(=O)NC2=CC(=C(C=C2)C)C=O)C=C(C1)N1C=NC(=C1)C)(F)F | C20H16F3N3O2
